US05407961
A mixture of 1.03 g of α-amino-2,6-dichlorobenzeneethanol and 0.7 g of 1-fluoro-2-nitrobenzene was stirred for 3 hours at 110° C. The reaction mixture was purified by column chromatography (silica gel; CH2Cl2 /CH3OH 98:2). The eluent of the desired fraction was evaporated and the residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 0.4 g (24.4%) of (±)-2,6-dichloro-β-(2-nitrophenyl)amino]benzeneethanol; m.p. 127.6° C. (comp. 12).

reactant | α-amino-2,6-dichlorobenzeneethanol | 1.03 g | NC(CC1=C(C=CC=C1Cl)Cl)O | C8H9Cl2NO
reactant | 1-fluoro-2-nitrobenzene | 0.7 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
product | benzeneethanol | C1(=CC=CC=C1)CCO | C8H10O
